US04266056
3-Fluoroaniline (0.05 mol) is reacted with α-cyano-β-ethoxy-N-ethoxycarbonylacrylamide (0.05 mol) to yield α-cyano-β-(3-fluoroanilino)-N-ethoxycarbonylacrylamide, m.p. 169.5°-171.0°, which is heated at reflux in tetralin to yield 5-cyano-1-(3-fluorophenyl)uracil, m.p. 245.5°-246.5°.

reactant | 3-Fluoroaniline | 0.05 mol | FC=1C=C(N)C=CC1 | C6H6FN
reactant | α-cyano-β-ethoxy-N-ethoxycarbonylacrylamide | 0.05 mol | C(#N)C(C(=O)NC(=O)OCC)=COCC | C9H12N2O4
product | α-cyano-β-(3-fluoroanilino)-N-ethoxycarbonylacrylamide | C(#N)C(C(=O)NC(=O)OCC)=CNC1=CC(=CC=C1)F | C13H12FN3O3
